US09334271B2
d) 8-Bromo-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine
Diisopropylamine (290 μl, 2.04 mmol) was dissolved in 4 mL of THF at −60° C., when butyllithium in hexane was added (1.27 mL, 2.04 mmol) to form LDA. 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine (585 mg, 1.45 mmol) was dissolved in 8 mL of THF and added to the reaction mixture at −78° C. within 10 minutes. The reaction was stirred for 1 hour at −78° C. Dibromotetrachloroethane (947 mg, 2.91 mmol) in 4 mL of THF was added within 10 minutes. The reaction was stirred for 2 hours at −78° C. The reaction was quenched by addition of saturated aqueous NH4Cl and warmed to room temperature. The mixture was diluted with 80 mL of EtOAc and 50 mL of brine. The organic layers were separated, dried over Na2SO4, filtered, and concentrated to give a residue, which was purified by column chromatography (30 g SiO2, heptane/TBME in a ratio 7/3) to give the product as a foam (546 mg, 78%).

reactant | 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine | 1.45 mmol, 585 mg | C[C@H]1N(CCOC1)C1=NC(=C2N=CN(C2=N1)C1OCCCC1)N1[C@@H](COCC1)C | C20H30N6O3
reactant | Dibromotetrachloroethane | 2.91 mmol, 947 mg | BrC(C(Cl)(Cl)Cl)(Cl)Br | C2Br2Cl4
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 8-Bromo-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine | 546 mg, 78% | BrC=1N(C2=NC(=NC(=C2N1)N1[C@@H](COCC1)C)N1[C@@H](COCC1)C)C1OCCCC1 | C20H29BrN6O3
